US09340556B2
2-Fluoro-3,4-dimethoxy-1-nitrobenzene (52 g, 259 mmol) was hydrogenated on a Par shaker (30 psi) in Ethanol (300 mL) with platinum(IV) oxide (5 g, 22.02 mmol) at r.t. for 30 mins. LCMS indicated completion of the reaction. The catalyst was filtered off and the filtrate was concentrated to afford 2-fluoro-3,4-dimethoxyaniline (42 g, 245 mmol, 95% yield) as a brown oil. LCMS (M+H)+: 172.0.

reactant | 2-Fluoro-3,4-dimethoxy-1-nitrobenzene | 259 mmol, 52 g | FC1=C(C=CC(=C1OC)OC)[N+](=O)[O-] | C8H8FNO4
solvent | Ethanol | 300 mL | C(C)O | C2H6O
catalyst | platinum(IV) oxide | 22.02 mmol, 5 g | [Pt](=O)=O
product | 2-fluoro-3,4-dimethoxyaniline | 245 mmol, 42 g, 95% yield | FC1=C(N)C=CC(=C1OC)OC | C8H10FNO2
